US04436913
5-(2-imidazolin-2-yl-amino)-1-methyl-indazole hydrochloride
5-amino-1-methyl-indazole is dissolved in absolute THF and treated with a solution of an equimolar quantity of 2-chloro-imidazoline in ether. The mixture is stirred for 48 hours in a darkened, sealed flask at room temperature. The precipitated reaction product is separated and recrystallized from ethanol. The purified, white, crystallized hydrochloride has a melting point from 240° to 241° C.

reactant | 5-amino-1-methyl-indazole | NC=1C=C2C=NN(C2=CC1)C | C8H9N3
reactant | 2-chloro-imidazoline | ClC=1NCCN1 | C3H5ClN2
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-(2-imidazolin-2-yl-amino)-1-methyl-indazole hydrochloride | Cl.N1C(=NCC1)NC=1C=C2C=NN(C2=CC1)C | InChI=1S/C11H13N5.ClH/c1-16-10-3-2-9(6-8(10)7-14-16)15-11-12-4-5-13-11;/h2-3,6-7H,4-5H2,1H3,(H2,12,13,15);1H
